US05767131
A solution of 5-acetyl-2-(4-azidobutyl)-3-(2-cyanoethoxy)carbonyl-1,4-dihydro-6-methyl-4-(4-nitrophenyl)pyridine (1.05 g, 2.32 mmol) in 10 ml of acetone was treated with 20 ml of 1N aqueous KOH solution at 0° C. for 1 hr. The acetone was removed in vacuo and the aqueous layer was acidified to pH=3 by 2N hydrochloric acid, the resulting yellow precipitate was collected by filtration, washed with 10 ml of cold water and dried in vacuo to yield 0.60 g (60% yield) of 5-acetyl-2-(4-azidobutyl)-1,4-dihydro-6-methyl-4-(4-nitrophenyl)pyridine-3-carboxylic acid as a yellow powder.

reactant | 5-acetyl-2-(4-azidobutyl)-3-(2-cyanoethoxy)carbonyl-1,4-dihydro-6-methyl-4-(4-nitrophenyl)pyridine | 2.32 mmol, 1.05 g | C(C)(=O)C=1C(C(=C(NC1C)CCCCN=[N+]=[N-])C(=O)OCCC#N)C1=CC=C(C=C1)[N+](=O)[O-] | C22H24N6O5
reactant | KOH | 1N, 20 ml | [OH-].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5-acetyl-2-(4-azidobutyl)-1,4-dihydro-6-methyl-4-(4-nitrophenyl)pyridine-3-carboxylic acid | 0.60 g, 60% yield | C(C)(=O)C=1C(C(=C(NC1C)CCCCN=[N+]=[N-])C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C19H21N5O5
